US07166588B2
4-(1-Methylethoxy)benzenepropanoic acid
2-[[4-(1-Methylethoxy)phenyl]methyl]-propanedioic acid dimethyl ester (23.6 g, 84.2 mmol) is stirred into 2N potassium hydroxide solution (15 ml)/ethanol (25 ml) for 18 hours at boiling temperature.

reactant | 2-[[4-(1-Methylethoxy)phenyl]methyl]-propanedioic acid dimethyl ester | 84.2 mmol, 23.6 g | COC(C(C(=O)OC)CC1=CC=C(C=C1)OC(C)C)=O | C15H20O5
reactant | potassium hydroxide | 2N, 15 ml | [OH-].[K+]
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 4-(1-Methylethoxy)benzenepropanoic acid | CC(C)OC1=CC=C(C=C1)CCC(=O)O | C12H16O3
